US06313115B1
4—Chloro-3-nitro-benzoylpiperidine (539.2 g, 2.00 mol) was dissolved in 2.93 L ethylene glycol in a 5-L flask with stirring and heating to 50 ° C. To this solution, sodium azide (137.0 g, 2.10 moles) was added in portions over 40 min. When the addition was complete, the temperature was increased to 120 ° C. during 2.5 hr and maintained at this temperature for 3 hr. The solution was allowed to cool to 50 ° C, at which time additional sodium azide (65.3 g, 1.00 moles) was added over 5 min. The temperature was increased to 25 120 ° C. during 2.5 hr and maintained at this temperature for 4.5 hr until gas evolution had ceased. The solution was allowed to cool to room temperature, at which time the mixture was partitioned between water and ethyl acetate (1.5 L each). The aqueous phase was extracted three times with ethyl acetate (300 mL). The combined organic phases were washed with 30 mL water, twice with saturated NaCl (200 mL), and finally dried over anhydrous Na2SO2. The filtered solution was evaporated to yield 345.5 g of crude 1-(benzofurazan-5-ylcarbonyl)piperidine.

reactant | 4—Chloro-3-nitro-benzoylpiperidine | 2.00 mol, 539.2 g | ClC1=C(C=C(C(=O)N2CCCCC2)C=C1)[N+](=O)[O-] | C12H13ClN2O3
reactant | sodium azide | 2.10 moles, 137.0 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium azide | 1.00 moles, 65.3 g | [N-]=[N+]=[N-].[Na+]
solvent | ethylene glycol | 2.93 L | C(CO)O | C2H6O2
product | 1-(benzofurazan-5-ylcarbonyl)piperidine | 345.5 g | N1=C2C(=NO1)C=C(C=C2)C(=O)N2CCCCC2 | C12H13N3O2
